### PR TITLE
Extending Aeneas with first-order sequential separation logic

### PR DESCRIPTION
**Pull request by andricicezar**

### CODE REVIEW

File: backends/lean/Aeneas/Std/Array/Array.lean [hunk 1]
```diff
@@ -285,8 +285,9 @@ theorem Array.index_mut_usize_spec {α : Type u} {n : Usize} (v: Array α n) (i:
   (hbound : i.val < v.length) :
   v.index_mut_usize i ⦃ x back => x = v.val[i.val] ∧ back = set v i ⦄ := by
   simp only [index_mut_usize, Bind.bind]
-  have ⟨ x, h ⟩ := spec_imp_exists (index_usize_spec v i hbound)
-  simp [h]
+  apply spec_bind (index_usize_spec v i hbound)
+  intro x hx
+  simp [hx]
```
Comment (andricicezar) [inline backends/lean/Aeneas/Std/Array/Array.lean]: I think the changes in Std/Array/Array.lean, Std/Array/Core.lean, Std/Scalar/CheckedOps/Rem.lean‎, Std/Scalar/Ops/Mul.lean‎, Std/Slice.lean‎ and Std/Vec.lean‎ can be extracted in a separate PR, or even added to #1340

File: backends/lean/Aeneas/Tactic/SepLogic/Intro.lean [hunk 2]
```diff
@@ -0,0 +1,269 @@
+import Aeneas.Tactic.SepLogic.Frame
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/SepLogic/Intro.lean]: The files should be called iintro, irewrite, iframe, tec.

File: backends/lean/Aeneas/Tactic/Step/StepStar.lean [hunk 3]
```diff
@@ -370,7 +370,7 @@ partial def Script.toSyntax (script : Script) : MetaM (Array Syntax.Tactic) := d
     pure (s0 ++ s1)
 
 inductive TargetKind where
-| bind (names : Array (Option Name))
+| bind (names : Array (Option Name)) (dischargeTac : Option (TSyntax `tactic))
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/StepStar.lean]: These changes should be moved in #1341

File: backends/lean/Aeneas/Tactic/Step/Step.lean [hunk 4]
```diff
@@ -1096,8 +1109,11 @@ def postprocessMainGoal (mainGoal : Option MainGoal) : TacticM (Option MainGoal)
       Note that we want to simplify targets of the shape:
       `ok ... ⦃ x₀ ... xₙ => ... ⦄`
       -/
+      let slOkSimps ← getSLOkSimps
```
Comment (andricicezar) [inline backends/lean/Aeneas/Tactic/Step/Step.lean]: Why is this hardcoded?

File: tests/lean/SepLogic/Examples/reports/automation-report.md
Comment (andricicezar) [inline tests/lean/SepLogic/Examples/reports/automation-report.md]: Remove file

File: tests/lean/SepLogic/Examples/reports/benchmark-report.md
Comment (andricicezar) [inline tests/lean/SepLogic/Examples/reports/benchmark-report.md]: remove file

File: tests/lean/SepLogic/Examples/reports/proof-score.html
Comment (andricicezar) [inline tests/lean/SepLogic/Examples/reports/proof-score.html]: remove file
